US09428498B2
N-(4-Chloro-3-fluorophenyl)-4-nitropyridin-3-amine
NaH (422 mg, 60% dispersion in mineral oil, 10.6 mmol) was suspended in THF (20 mL) and 4-chloro-3-fluoroaniline (1.54 g, 10.6 mmol) and 3-fluoro-4-nitropyridine (500 mg, 3.52 mmol) were added. The reaction mixture was stirred for 18 h, quenched with sat aq NH4Cl (2 mL), and concentrated in vacuo. The residue was partitioned between water (50 mL) and DCM (50 mL) and the organic fraction was dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography to give the title compound (207 mg, 22.0%) as an orange solid. LCMS (ES+): 268.0 [MH]+.

reactant | NaH | 10.6 mmol, 422 mg | [H-].[Na+]
reactant | 4-chloro-3-fluoroaniline | 10.6 mmol, 1.54 g | ClC1=C(C=C(N)C=C1)F | C6H5ClFN
reactant | 3-fluoro-4-nitropyridine | 3.52 mmol, 500 mg | FC=1C=NC=CC1[N+](=O)[O-] | C5H3FN2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-(4-Chloro-3-fluorophenyl)-4-nitropyridin-3-amine | 207 mg, 22.0% | ClC1=C(C=C(C=C1)NC=1C=NC=CC1[N+](=O)[O-])F | C11H7ClFN3O2
